US04308202
Measurement of the activity of kallikrein by use of Nα-tosyl-L-arginine methyl ester hydrochloride as substrate
To 0.5 ml of urinary kallikrein were added 0.4 ml of Nα-tosylarginine methyl ester solution (10 micromoles/0.4 ml of 5% DMSO) and 0.1 ml of phosphate buffer (pH 7.4). The mixture was subjected to incubation at 37° C. for 30 min, and 1.5 ml of hydroxylamine solution (a mixture of equal amounts of 2 M NH2OH hydrochloride and 3.5 M NaOH) was added thereto, after which the mixture was allowed to stand at room temperature for 15 min. Thereto were added 1 ml of 18% trichloroacetic acid solution, 1 ml of 4 N hydrochloric acid and 1 ml of 10% ferric chloride solution, and the resulting mixture was stirred thoroughly and then centrifuged at 3,000 r.p.m. for 10 min. The color developed in the supernatant was measured as absorbance (530 nm) by means of a spectrophotometer. The value obtained corresponds to the amount of the substrate remaining unhydrolyzed with kallikrein, and therefore, the activity of the enzyme corresponds to the difference between the value obtained when no enzyme was used (control) and the value obtained after the enzyme reaction.

reactant | Nα-tosylarginine methyl ester | 10 micromoles, 0.4 ml | COC([C@@H](NS(=O)(=O)C1=CC=C(C)C=C1)CCCNC(N)=N)=O | C14H22N4O4S
reactant | phosphate | 0.1 ml, pH 7.4 | P(=O)([O-])([O-])[O-]
reactant | hydroxylamine | 1.5 ml | NO | H3NO
reactant | NH2OH hydrochloride | 2 M | NO.Cl
reactant | NaOH | 3.5 M | [OH-].[Na+]
reactant | trichloroacetic acid | 1 ml | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | hydrochloric acid | 4 N, 1 ml | Cl | ClH
product | Nα-tosyl-L-arginine methyl ester hydrochloride | Cl.COC([C@@H](NS(=O)(=O)C1=CC=C(C)C=C1)CCCNC(N)=N)=O | InChI=1S/C14H22N4O4S.ClH/c1-10-5-7-11(8-6-10)23(20,21)18-12(13(19)22-2)4-3-9-17-14(15)16;/h5-8,12,18H,3-4,9H2,1-2H3,(H4,15,16,17);1H/t12-;/m0./s1
